US07666879B2
A. 2-(5-Amino-3-tert-butyl-pyrazol-1-yl)-ethanol
To a solution of 4,4-dimethyl-3-oxo-pentanenitrile (5.0 g, 0.04 mol) in absolute ethanol (50 mL), add 2-hydrazino-ethanol (3 mL, 1.1 equiv.) and concentrated HCl (0.5 mL). Reflux the reaction for 4 hours then cool to room temperature and dilute with water and ethyl acetate. Wash the organics with water then saturated aqueous saturated sodium chloride then dry with magnesium sulfate, filter and concentrate in vacuo. Trituration from hexanes and dichloromethane gives a white solid (4.8 g, 66%). MS (ES), m/z 184 (M+1).

reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 0.04 mol, 5.0 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | 2-hydrazino-ethanol | 3 mL, 1.1 equiv. | N(N)CCO | C2H8N2O
reactant | HCl | 0.5 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Amino-3-tert-butyl-pyrazol-1-yl)-ethanol | 4.8 g, 66% | NC1=CC(=NN1CCO)C(C)(C)C | C9H17N3O
